US05071999
b) 1,4-Diazatricyclo[6.2.0.02,6 ]decane
13.7 g (65.1 mmol) of ethyl 1,4-diazatricyclo [6.2.0.02,6 ]decane-4-carboxylate are heated under reflux overnight with 42 g of Ba(OH)2. 8H2O in 150 ml of water. Potassium carbonate is added, barium carbonate is filtered off with suction and the filtrate is extracted ten times using 100 ml of chloroform each time. The extracts are dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | ethyl 1,4-diazatricyclo [6.2.0.02,6 ]decane-4-carboxylate | 65.1 mmol, 13.7 g | N12C3CN(CC3CC2CC1)C(=O)OCC | C11H18N2O2
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 150 ml | O | H2O
product | 1,4-Diazatricyclo[6.2.0.02,6 ]decane | N12C3CNCC3CC2CC1 | C8H14N2
